US05569768
2-(3-Methyl-4-nitrophenyl)benzonitrile (6.3 mmoles, 1.5 g) was hydrogenated in ethyl acetate (50 ml) over 5% Pd/C (0.50 g). The catalyst was filtered, and the solution concentrated to an oil. The oil was dissolved in 10 ml of methylene chloride and triethylamine (9.4 mmoles, 1.4 ml). Acetic anhydride (9.4 moles, 0.960 g) and 4-dimethylaminopyridine (50 mg) were added. The reaction was stirred for 1 hour and poured into 20 ml of 5N HCl. The organic phase was washed with saturated sodium bicarbonate solution, dried over sodium sulfate, and concentrated. The product was crystallized from ether and hexane to yield 1.2 g of 2-(4-acetamino-3-methylphenyl)benzonitrile. (MS)

reactant | 2-(3-Methyl-4-nitrophenyl)benzonitrile | 6.3 mmoles, 1.5 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=C(C#N)C=CC=C1 | C14H10N2O2
reactant | triethylamine | 9.4 mmoles, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 9.4 moles, 0.960 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 5N, 20 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | Pd/C | 0.50 g | [Pd] | Pd
product | 2-(4-acetamino-3-methylphenyl)benzonitrile | 1.2 g | N(C(=O)C)C1=C(C=C(C=C1)C1=C(C#N)C=CC=C1)C | C16H14N2O
